US07713982B2
a) 8-chloro-3-(4-fluorobutyl)-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione
To a solution of 8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (200 mg, 0.88 mmol, 1eq) in anhydrous DMSO (1 ml) in a 1.5 ml microwave vial equipped with a stirrer was added sodium bicarbonate (113 mg, 1.07 mmol, 1.2eq) followed by 1-bromo-4-fluorobutane (114 ul, 165 mg, 1.06 mmol, 1.2eq). The vial was sealed and heated with stirring using a microwave, maintaining the temperature at 120° C. for 25 min with a maximum power output of 300 W. The resulting dark brown solution was diluted with methanol (1 ml) and purified by mass directed autopreparative HPLC to give the title compound as a white solid (159 mg, 60%). m/z 301.3[MH+]

reactant | 8-chloro-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 0.88 mmol, 200 mg, 1eq | ClC1=NC=2NC(NC(C2N1CC=C)=O)=O | C8H7ClN4O2
reactant | sodium bicarbonate | 1.07 mmol, 113 mg, 1.2eq | C([O-])(O)=O.[Na+]
reactant | 1-bromo-4-fluorobutane | 1.06 mmol, 114 ul, 165 mg, 1.2eq | BrCCCCF | C4H8BrF
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
solvent | methanol | 1 ml | CO | CH4O
product | 8-chloro-3-(4-fluorobutyl)-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 159 mg, 60% | ClC1=NC=2N(C(NC(C2N1CC=C)=O)=O)CCCCF | C12H14ClFN4O2
